US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline
3-[3-(Piperidinomethyl)phenoxy]propylamine (9.93 g) and 2-chloro-4-ethoxyquinoline (4.15 g) were fused at 160° C. for 41/4 hours. The reaction mixture was cooled, dissolved in dilute hydrochloric acid to pH 6 and washed with diethyl ether (2×). The solution was taken to pH 5 and extracted continuously into chloroform. The chloroform extract was evaporated under reduced pressure, dissolved in water, taken to pH 9 with aqueous sodium hydroxide and extracted into diethyl ether (7×) and chloroform (2×). The ether and chloroform extracts were dried (MgSO4) and evaporated to give the title compound as an oil (7.92 g). This was treated with maleic acid in ethanol to give 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline dimaleate (8.24 g), m.p. 145.5°-147.5° C. (recrystallised from ethanol).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 9.93 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-chloro-4-ethoxyquinoline | 4.15 g | ClC1=NC2=CC=CC=C2C(=C1)OCC | C11H10ClNO
solvent | hydrochloric acid | Cl | ClH
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline | 7.92 g | N1(CCCCC1)CC=1C=C(OCCCNC2=NC3=CC=CC=C3C(=C2)OCC)C=CC1 | C26H33N3O2
